US07186729B2
2-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-2-methyl-propionic acid
To a solution of 2-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-2-methyl-propionic acid ethyl ester (158 mg, 0.261 mmol) in methanol (3 mL) was added sodium hydroxide (1 N in water, 1 mL). Following a slight exotherm, the mixture clarified. An additional aliquot of sodium hydroxide (1 N, 1 mL) was added after 1 h and the mixture was allowed to stir an additional 1 h at rt. The solvents were evaporated under reduced pressure and the residue dissolved in water (2.5 mL). The basic solution was neutralized (pH=7) with hydrochloric acid (1 N) and the titled compound was precipitated and collected by suction filtration (86 mg, 57%).

reactant | 2-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-2-methyl-propionic acid ethyl ester | 0.261 mmol, 158 mg | C(C)OC(C(C)(C)OC1=CC2=C(OCC3=C(C2=CCCN2CC(C(CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C=CC=N3)C=C1)=O | C35H41ClN2O5
reactant | sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 2-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-2-methyl-propionic acid | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)OC(C(=O)O)(C)C)(C)C)O | C33H37ClN2O5
